datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)=[N:10]C1=CC=CC=C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([N+:10](C1=CC=CC=C1)=C(C)C)[C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.FC(F)(F)[S:61]([CH-:10][C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)(=[O:62])=[O:72]>>C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([S:61](C(F)(F)F)(=[O:62])=[O:72])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10=20
"C[Si:11](C)([H:10])[O:62][Si:63](C)(C)C.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>C[Si+:11](C)[O:62][Si:63](C)(C)C.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C:20]([H:10])([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1 10,11=10,20"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[H][Si:11]([H])([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[H][Si+:11]([H])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1 10,11=10,20"
"CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=CC=C2)=[C:11]([O-:12])[O:82]1.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1>>CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=CC=C2)([Cl:20])[C:11](=[O:12])[O:82]1.Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"F[S:32](/[CH:21]=[CH:20]/C1=CC=CC=C1)(=[O:33])=[O:34].[O:10]=[C:11]1[C:12](=[N+:13]([O-:14])[O-:64])[CH:73]=[CH:74][CH:75]=[CH:76]1>>F[S:32]([CH-:21][CH:20](C1=CC=CC=C1)[O:10][C:11]1=[C:12]([N+:13](=[O:14])[O-:64])[CH:73]=[CH:74][CH:75]=[CH:76]1)(=[O:33])=[O:34] 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C1=CC=C([Si](C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[NH:10]2)C=C1.C[N+:23](C)=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[N:23](C)[CH:22]=[CH:21][CH:20]([NH+:10]1CCCC1[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"CC[O:72][C:61]([C-:10]([C:81](=[O:82])[O:92]CC)[C:101](C1=CC=CC=C1)=[O:102])=[O:62].C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>CC[O:72][C:61]([C:10]([CH:20]([C:21]1=[C:22](C)[N:23](C)C2=C1C=CC=C2)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)([C:81](=[O:82])[O:92]CC)[C:101](C1=CC=CC=C1)=[O:102])=[O:62] 10=20;20,21=21,22;22,23=23"
"C1=CC=C(CC2C[O:62][C:11]([O-:12])=[N:10]2)C=C1.C[C:21]1=[CH:20]CCC[C:22]1=[O:23]>>C[C:21]1=[C:22]([O-:23])CCC[CH:20]1[N:10]1C(CC2=CC=CC=C2)C[O:62][C:11]1=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](/C[N+]23CCN(CC2)CC3)[C:22](C)=[O:23])[CH:36]=[CH:35]1.C[Si:63](C)(C)[O:12][C:11](=[CH2:10])[CH:72]=[CH2:73]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C:11](=[O+:12][Si:63](C)(C)C)[CH:72]=[CH2:73])[C:21](C[N+]23CCN(CC2)CC3)=[C:22](C)[O-:23])[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"FC(F)(F)[C:63]1=[CH:64][C:73](C(F)(F)F)=[CH:72][C:61]([S-:10])=[CH:62]1.[CH:20](=[C:21]([C:22]#[N:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1>>FC(F)(F)[C:63]1=[CH:64][C:73](C(F)(F)F)=[CH:72][C:61]([S:10][CH:20]([C:21](=[C:22]=[N-:23])[C:32]#[N:33])[C:41]2=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]2)=[CH:62]1 10=20;20,21=21,22;22,23=23"
"C[Si](C)(C)C12[C:62]3([CH:11]=[CH2:10])[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[C:20](=[S:21])=[S:31]>>C[Si](C)(C)C12[C:62]3([CH+:11][CH2:10][C:20]([S-:21])=[S:31])[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;20,21=21"
"C1C[O:12][CH:11]=[CH:10]1.[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1>>C1C[O+:12]=[CH:11][CH:10]1[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1 10,11=10,20;12=11,12"
CN1[C@@H](C(C)(C)C)[NH:10][C@@H:61](CC2=CC=CC=C2)[C:62]1=[O:63].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([NH+:10]2[C@H](C(C)(C)C)N(C)[C:62](=[O:63])[C@@H:61]2CC2=CC=CC=C2)[C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1 10=20
